US04344949
Benzyl alcohol, 750 ml, was treated with 150 g of commercial polyphosphoric acid and warmed and stirred at 90° C. to obtain a homogeneous mixture. Solid 1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid (S-form) 165.2 g was added. The mixture was stirred 4 hours at 95°-105° C. and then allowed to stand at room temperature for 18 hours. A solution of 18.5 g gaseous hydrochloric acid in 2.5 l of anhydrous ether was added, and the product separated slowly on cooling overnight. Filtration gave the crude benzyl 1,2,3,4-tetrahydro-3-isoquinoline carboxylate hydrochloride. This was purified by recrystallization from ethanol twice to give material with mp 190.5°-191° C.; [α]D 23=-83.3° (1% 1:1 methanol/1 N hydrochloric acid).

reactant | Benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | 1,2,3,4-tetrahydro-3-isoquinolinecarboxylic acid | 165.2 g | C1NC(CC2=CC=CC=C12)C(=O)O | C10H11NO2
reactant | hydrochloric acid | 18.5 g | Cl | ClH
solvent | ether | 2.5 l | CCOCC | C4H10O
product | benzyl 1,2,3,4-tetrahydro-3-isoquinoline carboxylate hydrochloride | Cl.C1NC(CC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | InChI=1S/C17H17NO2.ClH/c19-17(20-12-13-6-2-1-3-7-13)16-10-14-8-4-5-9-15(14)11-18-16;/h1-9,16,18H,10-12H2;1H
